US08445118B2
(1) Titanium Catecholate (Molecular Weight: 264)
A solution of catechol (22.0 g, 200 mmol) and toluene (220 ml) was dehydrated by distilling 20 mL of the solution. Thereafter, 28.4 g (100 mmol) of titanium(IV) isopropoxide (TTIP) was added to the solution while stirring. The mixed solution was refluxed for 1 hour, and then, while the distillation temperature was 100° C. or higher, distilled until the amount of the solution became half. After the distillation, solid content of the product was isolated by suction filtering using a membrane suction filter. The residual solid content was heated to 100° C. under vacuum using a vacuum dryer so that remaining volatile components were completely removed. The solid content (catechol-titanium complex) was brown in color. The yield amount was 26.0 g (98.5 mmol), and the yield percentage was 98%. 2.64 g of catechol-titanium complex was dissolved into 100 mL of 1:4 acetylacetone/toluene to produce a coating liquid.

reactant | catechol | 200 mmol, 22.0 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | titanium(IV) isopropoxide | 100 mmol, 28.4 g | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | toluene | 220 ml | C1(=CC=CC=C1)C | C7H8
product | Titanium Catecholate | C=1([O-])C([O-])=CC=CC1.[Ti+4].C=1([O-])C([O-])=CC=CC1 | InChI=1S/2C6H6O2.Ti/c2*7-5-3-1-2-4-6(5)8;/h2*1-4,7-8H;/q;;+4/p-4
